US04808581
A solution of N,N-dimethyl-3-(5-methyl-1H-imidazol-4-yl)propanamide (250 mg) in ethanol (10 ml) was acidified (to pH 1) by the addition of ethanolic hydrogen chloride. The yellow solution was evaporated and the residual oil triturated with ether (10 ml) and evaporated to give N,N-dimethyl-3-(5-methyl-1H-imidazol-4-yl)propanamide dihydrochloride as white crystals. 1-Methyl-2-phenylindole (343 mg) and phosphorus oxychloride (0.19 ml) were added and the mixture heated at 85° for 1.5 h. The mixture was cooled, water (60 ml) was added and the aqueous solution was washed with dichloromethane (2×50 ml; discarded), basified with 2N sodium carbonate (to pH 10) and extracted with ethyl acetate (2×85 ml). The combined, dried organic extracts were evaporated to give a yellow oil. This was purified by SPCC eluting with System A (956:40:4) to give the free base of the title compound (193 mg) as a yellow oil (183 mg). This yellow oil was dissolved in hot ethanol (20 ml), and maleic acid (67 mg) in ethanol (3 ml) was added. The solution was evaporated and the residual solid was crystallised from ethanol to give the title compound (153 mg) as a white powder, m.p. 166°-167°.

reactant | N,N-dimethyl-3-(5-methyl-1H-imidazol-4-yl)propanamide | 250 mg | CN(C(CCC=1N=CNC1C)=O)C | C9H15N3O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N,N-dimethyl-3-(5-methyl-1H-imidazol-4-yl)propanamide dihydrochloride | Cl.Cl.CN(C(CCC=1N=CNC1C)=O)C | InChI=1S/C9H15N3O.2ClH/c1-7-8(11-6-10-7)4-5-9(13)12(2)3;;/h6H,4-5H2,1-3H3,(H,10,11);2*1H
